US05004741
(S)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-2-iodobenzamide
Equimolar amounts of 3(S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one, o-iodobenzoylchloride and triethylamine were mixed at room temperature and stirred 1 hour. Flash chromatography of the reaction solution on silica gel (5% Et2O in CH2Cl2) provided the title compound as a crystalline solid from EtOAc: m.p. 115°-120° C. (physical change), 173°-175° C. (melt).

reactant | 3(S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | o-iodobenzoylchloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-2-iodobenzamide | CN1C([C@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(C2=C(C=CC=C2)I)=O)=O | C23H18IN3O2
